US05298652
Sodium hydroxide hydrolysis of N-(2-ethoxy-2-oxoethyl)-N-[5-[[6-([1,1'-biphenyl]-4-yloxy)hexyl]oxy]-2-(phenylmethoxy)benzoyl]glycine ethyl ester under conditions described in Example 81 gave N-[5-[[6-([1,1'-biphenyl]-4-yloxy)hexyl]oxy]-2(phenylmethoxy)benzoyl]-N-(carboxymethyl)glycine (82% yield, mp 98°-100° ).

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | N-(2-ethoxy-2-oxoethyl)-N-[5-[[6-([1,1'-biphenyl]-4-yloxy)hexyl]oxy]-2-(phenylmethoxy)benzoyl]glycine ethyl ester | C(C)OC(CN(C(C1=C(C=CC(=C1)OCCCCCCOC1=CC=C(C=C1)C1=CC=CC=C1)OCC1=CC=CC=C1)=O)CC(=O)OCC)=O | C40H45NO8
product | N-[5-[[6-([1,1'-biphenyl]-4-yloxy)hexyl]oxy]-2(phenylmethoxy)benzoyl]-N-(carboxymethyl)glycine | 82% yield | C1(=CC=C(C=C1)OCCCCCCOC=1C=CC(=C(C(=O)N(CC(=O)O)CC(=O)O)C1)OCC1=CC=CC=C1)C1=CC=CC=C1 | C36H37NO8
